US05099019
A mixture of 2-chloropyrimidine (10.0 g) and piperazine (16 g) in alcohol (120 ml) is stirred for 21 hr. The mixture is partitioned between methylene chloride and aqueous sodium bicarbonate, the phases are separated and the organic phase is dried with sodium sulfate and concentrated to give 2-pyrimidinyl piperazine. The 2-pyrimidinyl piperazine (4.64 g) is stirred at 70° in acetonitrile (200 ml) with 21-bromo-17α-hydroxypregna-4,9(11)-diene-3,20-dione (11.52 g) and potassium carbonate (3.75 g) for 1.5 hr and at 20°-25° for 2 days. The mixture is partitioned between methylene chloride and aqueous sodium bicarbonate, the phases are separated and the organic phase is dried with sodium sulfate and concentrated. The concentrate is chromatographed on silica gel eluting with 4 to 6% methanol/methylene chloride. The appropriate fractions are pooled and concentrated to give the title compound which is crystallized from ethyl acetate

reactant | 2-chloropyrimidine | 10.0 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | piperazine | 16 g | N1CCNCC1 | C4H10N2
product | 2-pyrimidinyl piperazine | N1=C(N=CC=C1)C1NCCNC1 | C8H12N4
